US04192871
11β-Iodoacetoxy-3α-methanesulphonyloxy-5α-pregnan-20-one
A solution of 3α-hydroxy-11β-iodoacetoxy-5α-pregnan-20-one (20 g) in methylene chloride (400 ml) containing triethylamine (8.4 ml) was cooled to -5° and added dropwise with good stirring to a cooled (-5°) solution of methanesulphonyl chloride (3.77 ml) in methylene chloride (50 ml) at such a rate that the temperature did not exceed +1°. After 30 minutes a further portion of methanesulphonyl chloride (3 ml) and triethylamine (6 ml) was added in a small volume of methylene chloride. After 10 minutes the solution was washed with water, dried and evaporated to give a yellow solid (22.43 g). Crystallization of a small portion afforded an analytical sample of title compound, m.p. 142°-143°, [α]D +83.2°.

reactant | 3α-hydroxy-11β-iodoacetoxy-5α-pregnan-20-one | 20 g | O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(C)=O)[C@]4(C[C@@H]([C@@H]3[C@]2(CC1)C)OC(CI)=O)C | C23H35IO4
reactant | triethylamine | 8.4 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulphonyl chloride | 3.77 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | methanesulphonyl chloride | 3 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 6 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 400 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 11β-Iodoacetoxy-3α-methanesulphonyloxy-5α-pregnan-20-one | 22.43 g | ICC(=O)O[C@@H]1[C@@H]2[C@]3(CC[C@H](C[C@@H]3CC[C@H]2[C@@H]2CC[C@H](C(C)=O)[C@]2(C1)C)OS(=O)(=O)C)C | C24H37IO6S
